US07205384B2
A solid mixture of N-(4-amino-5-benzothiazol-2-yl-5-oxo-pentyl)-guanidine (0.24 g, 0.83 mmol) and 1-acetyl-4-hydroxy-pyrrolidine-2-carboxylic acid (0.14 g, 0.83 mmol) was dissolved in THF (10 mL) and water (2 mL). To the reaction mixture was then added N,N′-diisopropyl carbodiimide to yield a reaction mixture of pH 1.8 at 0° C. The pH of the reaction mixture was adjusted to about 5.5 with 8% NaHCO3. The reaction mixture was stirred at ambient temperature for 4 hours. The title compound was detected by HPLC (180 mg) and assayed by weight analysis.

reactant | N-(4-amino-5-benzothiazol-2-yl-5-oxo-pentyl)-guanidine | 0.83 mmol, 0.24 g | NC(CCCNC(=N)N)C(=O)C=1SC2=C(N1)C=CC=C2 | C13H17N5OS
reactant | 1-acetyl-4-hydroxy-pyrrolidine-2-carboxylic acid | 0.83 mmol, 0.14 g | C(C)(=O)N1C(CC(C1)O)C(=O)O | C7H11NO4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | N,N′-diisopropyl carbodiimide | C(C)(C)N=C=NC(C)C | C7H14N2
